US05962458
A mixture of methyl 2-chloro-6-methyl-pyridine-4-carboxylate (1.8 g, 10 mmol) and 10% palladium-on-charcoal catalyst (200 mg) in methanol (100 ml) was stirred under hydrogen at 5 atmospheres pressure. The catalyst was removed by filtration and the volatiles removed from the filtrate by evaporation. The residue was treated with 10% aqueous sodium hydroxide solution and extracted with ether (3×30 ml). The combined extracts were dried (MgSO4) and the solvent removed by evaporation to give methyl 2-methyl-pyridine-4-carboxylate (800 mg, 53%) as an oil.

reactant | methyl 2-chloro-6-methyl-pyridine-4-carboxylate | 10 mmol, 1.8 g | ClC1=NC(=CC(=C1)C(=O)OC)C | C8H8ClNO2
catalyst | palladium-on-charcoal | 200 mg | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | methyl 2-methyl-pyridine-4-carboxylate | 800 mg, 53% | CC1=NC=CC(=C1)C(=O)OC | C8H9NO2
